US09145413B2
a. 2-Morpholin-4-yl-propionic acid N′-(5-fluoro-pyridin-2-yl)-hydrazide (Intermediate 46a)
To a solution of (5-fluoro-pyridin-2-yl)-hydrazine (1.62 g, 12.8 mmol), 2-(morpholin-4-yl)propanoic acid (Enamine, 2.50 g, 12.8 mmol), HOBt.H2O (196 mg, 1.28 mmol) and Et3N (2.14 mL, 15.3 mmol) in DCM (50 mL) was added EDC (2.94 g, 15.3 mmol) and the brown solution stirred at RT for 16 h. Water (20 mL) and brine (20 mL) were added, and the mixture shaken. The aqueous layer was extracted with DCM (20 mL), then the combined organics were passed through a hydrophobic frit and concentrated in vacuo to give the title compound as a brown foam (3.43 g, >99%). LCMS (Method 3): Rt 0.44 min, m/z 269 [MH+].

reactant | (5-fluoro-pyridin-2-yl)-hydrazine | 12.8 mmol, 1.62 g | FC=1C=CC(=NC1)NN | C5H6FN3
reactant | 2-(morpholin-4-yl)propanoic acid | 12.8 mmol, 2.50 g | N1(CCOCC1)C(C(=O)O)C | C7H13NO3
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Et3N | 15.3 mmol, 2.14 mL | CCN(CC)CC | C6H15N
reactant | EDC | 15.3 mmol, 2.94 g
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | brine | 20 mL | [Cl-].[Na+].O
solvent | Water | 20 mL | O | H2O
solvent | H2O | 1.28 mmol, 196 mg | O | H2O
product | 2-Morpholin-4-yl-propionic acid N′-(5-fluoro-pyridin-2-yl)-hydrazide | 3.43 g, >99% | FC=1C=CC(=NC1)NNC(C(C)N1CCOCC1)=O | C12H17FN4O2
